US07569600B2
A solution of 3-[(trans-4-azido-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-5-(4,4-dimethyl-cyclohexyl)-thiophene-2-carboxylic acid methyl ester (0.90 g, 1.7 mmol) in trimethylsilylacetylene (1.2 ml, 6.8 mmol) was treated in microwave at 120° C. for 2 h. The mixture was concentrated under reduce pressure and the residue purified by silica gel column chromatography (1% MeOH/CH2Cl2 to 10% MeOH/CH2Cl2) to obtain 5-(4,4-Dimethyl-cyclohexyl)-3-{(trans-4-methyl-cyclohexanecarbonyl)-[trans-4-(4-trimethylsilany-[1,2,3]triazol-1-yl)-cyclohexyl]-amino}-thiophene-2-carboxylic acid methyl ester (1.1 g, 58%)

reactant | 3-[(trans-4-azido-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-5-(4,4-dimethyl-cyclohexyl)-thiophene-2-carboxylic acid methyl ester | 1.7 mmol, 0.90 g | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)N=[N+]=[N-])C1CCC(CC1)(C)C | C28H42N4O3S
reactant | trimethylsilylacetylene | 6.8 mmol, 1.2 ml | C[Si](C)(C)C#C | C5H10Si
product | 5-(4,4-Dimethyl-cyclohexyl)-3-{(trans-4-methyl-cyclohexanecarbonyl)-[trans-4-(4-trimethylsilany-[1,2,3]triazol-1-yl)-cyclohexyl]-amino}-thiophene-2-carboxylic acid methyl ester | 1.1 g, 58% | COC(=O)C=1SC(=CC1N([C@@H]1CC[C@H](CC1)N1N=NC(=C1)[Si](C)(C)C)C(=O)[C@@H]1CC[C@H](CC1)C)C1CCC(CC1)(C)C | C33H52N4O3SSi
